US05280032
0.97 g of pyridinium p-toluenesulfonate was added, at room temperature, to a solution of 7.6 g of 1-(benzo[b]thiophen-5-yl)-2-[2-(p-toluenesulfonyloxy)ethoxy]ethanol and 3.5 ml of 3,4-dihydro-2H-pyran dissolved in 40 ml of methylene chloride. The mixture was stirred at the same temperature for 20 minutes and further at 40°-45° C. for 30 minutes. The reaction mixture was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure to obtain 8.7 g of colorless, oily 1-(benzo[b]-thiophen-5-yl)-1-(2-tetrahydropyranyloxy)-2-[2-(p-toluenesulfonyloxy)ethoxy]ethane.

reactant | pyridinium p-toluenesulfonate | 0.97 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | 1-(benzo[b]thiophen-5-yl)-2-[2-(p-toluenesulfonyloxy)ethoxy]ethanol | 7.6 g | S1C2=C(C=C1)C=C(C=C2)C(COCCOS(=O)(=O)C2=CC=C(C=C2)C)O | C19H20O5S2
reactant | 3,4-dihydro-2H-pyran | 3.5 ml | O1CCCC=C1 | C5H8O
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 1-(benzo[b]-thiophen-5-yl)-1-(2-tetrahydropyranyloxy)-2-[2-(p-toluenesulfonyloxy)ethoxy]ethane | S1C2=C(C=C1)C=C(C=C2)C(COCCOS(=O)(=O)C2=CC=C(C=C2)C)OC2OCCCC2 | C24H28O6S2
